US06632810B2
Synthesis of N,N′-bis(1-phenyl-4,5,6-trimethoxyindole-2-carbonyl)homopiperazine:
1-Phenyl-4,5,6-trimethoxyindole-2-carboxylic acid (91 mg) and homopiperazine (14 mg) were reacted in the same manner as in Preparation Example 37 to obtain the title compound.

reactant | 1-Phenyl-4,5,6-trimethoxyindole-2-carboxylic acid | 91 mg | C1(=CC=CC=C1)N1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)O | C18H17NO5
reactant | homopiperazine | 14 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis(1-phenyl-4,5,6-trimethoxyindole-2-carbonyl)homopiperazine | C1(=CC=CC=C1)N1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)N1CCN(CCC1)C(=O)C=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C1=CC=CC=C1 | C41H42N4O8
